Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Flank pain, nephrolithiasis
 
Major Surgical or Invasive Procedure:
Cystoscopy, right ureteral stent placement

 
History of Present Illness:
Patient is a ___ female with hx of nephrolithiasis s/p right 
ureteroscopy, laser lithotripsy on ___ for 1.2 cm stone. The 
patient had her stent removed in clinic on ___ and subsequently 
developed progressive right flank pain. Her pain progressed 
prompting presentation to the ED overnight. While in the ED she
had a fever to 100.9 and was found to have likely UTI on UA. She 
does endorse frequency, urgency, hematuria, and mild dysuria. 
Vitals otherwise stable in ED. Renal US and KUB showing 
conglomeration of stone in right distal ureter with right hydro. 
She also reports a new burn/wound at her right proximal thigh. 
 
Past Medical History:
SMOKER                                                          
FRACTURED TOE                                                   
PREDIABETES                                                     
OBGYN                                                           
KIDNEY STONES                                                   
H/O GESTATIONAL DIABETES                                        
H/O GESTATIONAL HYPERTENSION  

CYSTOSCOPY, RIGHT URETEROSCOPY, LASER                 ___
  Cystoscopy, right ureteroscopy, laser lithotripsy, and right  
  ureteral stent placement.                                     

TUBAL LIGATION                                        ___
PROCEDURE: 1. Exam under anesthesia. 2. Laparoscopic bilateral  
partial salpingectomies for permanent sterilization. There were 
omental adhesions to the left intraabdominal wall extending from
a level slightly below the umbilicus down to the mid pelvis.    
The uterus, both tubes and ovaries appeared within normal       
limits.                                                         

EXCISION OF LEFT INFERIOR BREAST LESION               ___
Skin, left inferior breast, excision (A-B): Epidermal inclusion 
cyst with chronic inflammation and fibrosis.                    

CESAREAN SECTION                                                

BREAST REDUCTION                                               

 
Social History:
Country of Origin:  ___                                         
Marital status:     Significant Other                           
Children:           Yes: 2                                      
Lives with:         ___                            
Work: ___
Sexual activity:    Present                                     
Domestic violence:  Denies                                      
Contraception:      Sterilization - tubal ligation              
Tobacco use:        Light tobacco smoker (Less than 10          
                    cigarettes per day)                         
Tobacco Use         working on stopping                         
Comments:                                                       
Smoking cessation   Yes                                         
counseling offered:                                             
Alcohol use:        Denies                                      
Recreational drugs  Denies                                      
(marijuana, heroin,                                             
crack pills or                                                  
other):                                                         
Exercise:           Activities                                  
Seat belt/vehicle   Sometimes                                   
restraint use:                                                  

 
Family History:
Non-contributory
 
Physical Exam:
WDWN woman, nad, avss
abdomen soft, nt/nd
extremities w/out edema, pitting, pain
right ant thigh with dressing applied by wound specialist (see 
note in OMR)
 
Pertinent Results:
___ 01:00AM BLOOD WBC-10.2* RBC-4.14 Hgb-12.5 Hct-38.2 
MCV-92 MCH-30.2 MCHC-32.7 RDW-12.6 RDWSD-42.5 Plt ___
___ 01:00AM BLOOD Neuts-73.5* Lymphs-14.8* Monos-9.0 
Eos-2.0 Baso-0.3 Im ___ AbsNeut-7.48*# AbsLymp-1.50 
AbsMono-0.91* AbsEos-0.20 AbsBaso-0.03
___ 01:00AM BLOOD Glucose-151* UreaN-17 Creat-1.1 Na-135 
K-4.3 Cl-100 HCO3-24 AnGap-15
___ 01:14AM BLOOD Lactate-0.9
___ 03:12AM URINE Color-Red Appear-Hazy Sp ___
___ 03:12AM URINE Blood-LG Nitrite-NEG Protein-100 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG
___ 03:12AM URINE RBC->182* WBC->182* Bacteri-FEW 
Yeast-NONE Epi-3
___ 03:12AM URINE Mucous-RARE

___ URINE URINE CULTURE-FINAL INPATIENT 
___ URINE URINE CULTURE-FINAL INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 
___ URINE URINE CULTURE-FINAL {GRAM POSITIVE 
BACTERIA} EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 
___ URINE URINE CULTURE-FINAL {GRAM POSITIVE 
BACTERIA} ___. 

 
Brief Hospital Course:
Ms. ___ was admitted to Dr. ___ for 
nephrolithiasis management with flank pain, concern for fever. 
She is status post right ureteroscopy, laser lithotripsy on 
___ for 1.2 cm stone who was admitted from the ED with with 
flank pain, fever, UTI following stent removal and imaging 
showing large grouping of stone in the right distal ureter.  She 
was given intravenous fluids, pain medication, intravenous 
antibiotics and prepped for operative intervention/stenting. She 
was taken to the OR and underwent cystoscopy, right ureteral 
stent placement. She tolerated the procedure well and recovered 
in the PACU before transfer to the general surgical floor. See 
the dictated operative note for full details. She was monitored 
overnight and on POD1 a consult with wound care specialist 
obtained for an eschar on the right thigh of unclear etiology. 
Overnight, the patient was hydrated with intravenous fluids and 
received appropriate perioperative prophylactic antibiotics. 
Intravenous fluids, Toradol and Flomax were given along with 
intravenous antibiotics. At discharge on POD1, Ms. ___ pain 
was controlled with oral pain medications, tolerating regular 
diet, ambulating without assistance, and voiding without 
difficulty.  She was discharged with wound care plan and a 
course of antibiotics and she was explicitly advised to follow 
up as directed as the indwelling ureteral stent must be removed 
and or exchanged.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Phenazopyridine 100 mg PO TID 
2. Docusate Sodium 100 mg PO BID 
3. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Moderate 

4. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
2. Tamsulosin 0.4 mg PO DAILY 
RX *tamsulosin 0.4 mg 1 capsule(s) by mouth at bedtime Disp #*14 
Capsule Refills:*0
3. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*28 Capsule Refills:*0
4. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Moderate 

RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*15 Tablet Refills:*0
5. Phenazopyridine 100 mg PO TID 
RX *phenazopyridine 100 mg 1 tablet(s) by mouth three times a 
day Disp #*5 Tablet Refills:*0
6. Cephalexin 500 mg PO Q12H 
RX *cephalexin 500 mg 1 capsule(s) by mouth every twelve (12) 
hours Disp #*14 Capsule Refills:*0
7. Silver Sulfadiazine 1% Cream 1 Appl TP DAILY AND PRN DRESSING 
CHANGE wound care 
apply as directed by wound care specialist 
RX *silver sulfadiazine [Silvadene] 1 % Apply thin layer to 
wound Daily and PRN dressing changes Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right ureteral stones, right thigh wound

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-You can expect to see occasional blood in your urine and to 
possibly experience some urgency and frequency over the next 
month;  this may be related to the passage of stone fragments or 
the indwelling ureteral stent.

-You will be discharged with supplies and instruction on caring 
for your thigh wound. Schedule follow up appointment in wound 
clinic in one week. ___ call MD if redness spreads or s/s of 
infection. 
For questions or concerns please call outpatient wound
clinic at ___.  You will also get antibiotics. 

-The kidney stone may or may not have been removed AND/or there 
may fragments/others still in the process of passing.

-You may experience some pain associated with spasm of your 
ureter.; This is normal. Take the narcotic pain medication as 
prescribed if additional pain relief is needed.

-Ureteral stents MUST be removed or exchanged and therefore it 
is IMPERATIVE that you follow-up as directed. 

-Do not lift anything heavier than a phone book (10 pounds) 

-You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve

-Resume your pre-admission/home medications EXCEPT as noted. You 
should ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor.  HOLD ASPIRIN and aspirin containing products for one 
week unless otherwise advised.

-IBUPROFEN (the ingredient of Advil, Motrin, etc.) may be taken 
even though you may also be taking Tylenol/Acetaminophen. You 
may alternate these medications for pain control. For pain 
control, try TYLENOL FIRST, then ibuprofen, and then take the 
narcotic pain medication as prescribed if additional pain relief 
is needed.

-Ibuprofen should always be taken with food. Please discontinue 
taking and notify your doctor should you develop blood in your 
stool (dark, tarry stools)

-You MAY be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative, and available over the counter. 
The generic name is DOCUSATE SODIUM. It is recommended that you 
use this medication.

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated

-No vigorous physical activity or sports for 4 weeks and while 
Foley catheter is in place.

 
Followup Instructions:
___